US04636523
In a manner similar to Step C of Example 2, the reaction of 12.8 g (0.033 mole) 2-(2-bromo-1,1,2,3,3,3-hexafluoropropanoxy)-1,3-dichlorobenzene, 10.4 g (0.16 mole) activated copper powder, and 2.3 g (0.0033 mole) bis(triphenylphosphine)palladium II chloride in 225 ml of dimethyl sulfoxide produced 4.3 g of 7-chloro-2,2,3-trifluro-3-trifluoromethyl-2,3-dihydrobenzofuran as an oil. The nmr spectrum was consistent with the proposed structure.

reactant | 2-(2-bromo-1,1,2,3,3,3-hexafluoropropanoxy)-1,3-dichlorobenzene | 0.033 mole, 12.8 g | BrC(C(OC1=C(C=CC=C1Cl)Cl)(F)F)(C(F)(F)F)F | C9H3BrCl2F6O
solvent | dimethyl sulfoxide | 225 ml | CS(=O)C | C2H6OS
catalyst | copper | [Cu] | Cu
catalyst | bis(triphenylphosphine)palladium | 0.0033 mole, 2.3 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 7-chloro-2,2,3-trifluro-3-trifluoromethyl-2,3-dihydrobenzofuran | 4.3 g | ClC1=CC=CC=2C(C(OC21)(F)F)(C(F)(F)F)F | C9H3ClF6O
